US07557213B2
Step 2: 1-(6-Methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid
Experimental conditions analogous to those described for Step 4 of Example 60, from 3.15 g (9.77 mmol) of 1-(6-methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester, 80 mL of 1:1 methanol-water mixture and 0.28 g (11.7 mmol) of lithium hydroxide with a work-up consisting only of thorough evaporation of solvents.

reactant | 1-(6-methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 9.77 mmol, 3.15 g | C(C)OC(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)C | C19H18N2O3
reactant | lithium hydroxide | 11.7 mmol, 0.28 g | [OH-].[Li+]
solvent | methanol water | 80 mL | CO.O
product | 1-(6-Methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | CC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(=O)O | C17H14N2O3
